US04337250
2-(4-Chloro-1-butyl)-3(2H)-benz[d]isothiazolone 1,1-Dioxide
Sodium saccharin (5.6 g, 0.027 mole) and 1,4-dichlorobutane (14.9 ml, 0.135 mole) were taken into 100 ml of dimethylformamide and heated on a steam bath for 4 hours. The reaction mixture was evaporated in vacuo to an oil and the oil extracted with 100 ml of hexane. Residual hexane was removed from the remaining oil by vacuum evaporation to yield the title product (956 mg).

reactant | Sodium saccharin | 0.027 mole, 5.6 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12.[Na]
reactant | 1,4-dichlorobutane | 0.135 mole, 14.9 ml | ClCCCCCl | C4H8Cl2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chloro-1-butyl)-3(2H)-benz[d]isothiazolone 1,1-Dioxide | 956 mg | ClCCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | C11H12ClNO3S
